US04259352
Preparation of 1-carboxyethyl 4-(2-cyclohexylethylamino)-phenylacetate
A flask containing 10.0 g. 4-(2-cyclohexylethylamino)phenylacetic acid, 3.3 g. lactic acid, 500 mg. toluenesulfonic acid and 500 ml. toluene equipped with a Soxhlet extractor charged with activated 4 A Linde molecular sieves. The solution is refluxed for 24 hours during which time the Soxhlet extractor is charged twice more with fresh sieves. The hot solution is filtered and left to cool, whereupon 1-carboxyethyl 4-(2-cyclohexylethylamino)phenylacetate separates as off-white crystals.

reactant | 4-(2-cyclohexylethylamino)phenylacetic acid | C1(CCCCC1)CCNC1=CC=C(C=C1)CC(=O)O | C16H23NO2
reactant | lactic acid | C(C(O)C)(=O)O | C3H6O3
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-carboxyethyl 4-(2-cyclohexylethylamino)-phenylacetate | C1(CCCCC1)CCNC1=CC=C(C=C1)CC(=O)OC(C)C(=O)O | C19H27NO4
